US08859580B2
(6-Methoxy-3-oxo-indan-1-yl)-acetic acid methyl ester
Concentrated sulfuric acid (3.0 mL) is added to 5-methoxy-1-indanone-3-acetic acid (13.0 g) dissolved in methanol (100 mL). The solution is stirred at reflux temperature for 4 h and then cooled to room temperature. About two third of the methanol is removed under reduced pressure and water (100 mL) and ethyl acetate (200 mL) are added to the remainder. The organic phase is separated and washed with water, 1 M NaOH solution, and brine. The organic phase is dried (MgSO4) and the solvent is evaporated to give the product as a yellow oil.

reactant | sulfuric acid | 3.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | 5-methoxy-1-indanone-3-acetic acid | 13.0 g | COC1=CC2=C(C=C1)C(=O)CC2CC(=O)O | C12H12O4
reactant | methanol | 100 mL | CO | CH4O
product | (6-Methoxy-3-oxo-indan-1-yl)-acetic acid methyl ester | COC(CC1CC(C2=CC=C(C=C12)OC)=O)=O | C13H14O4
